US08389524B2
(1R)-1-({4-[(2,3-Dihydro[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (511 mg, 1.369 mmol) (for a preparation see Example 5(j)) in chloroform (20 ml) and methanol (1 ml) at rt under argon was treated with triethylamine (0.572 ml, 4.11 mmol) and stirred at rt for 0.25 h. The solution was then treated with 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144, Example 60) (248 mg, 1.369 mmol) and stirred for a further 0.5 h. The solution was then treated with NaBH(OAc)3 (870 mg, 4.11 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (100 ml) and extracted with 20% methanol/DCM (3×200 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound as a light brown solid (499 mg, 78%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | 1.369 mmol, 511 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 4.11 mmol, 0.572 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde | S1CCOC=2C=NC(=CC21)C=O | C8H7NO2S
reactant | NaBH(OAc)3 | 4.11 mmol, 870 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 ml | CO | CH4O
product | (1R)-1-({4-[(2,3-Dihydro[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 499 mg, 78% | Cl.S1CCOC=2C=NC(=CC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C24H27N5O3S.ClH/c30-22-3-1-16-2-4-23(31)29-19(15-28(22)24(16)29)14-27-7-5-17(6-8-27)25-12-18-11-21-20(13-26-18)32-9-10-33-21;/h1-4,11,13,17,19,25H,5-10,12,14-15H2;1H/t19-;/m1./s1
